US04119710
1-(4'-Amino-3'-chloro-5'-cyano-phenyl)-2-cyclobutylamino-ethanol,
m.p. of the hydrochloride: 178°-180° C. (decomp.), was prepared from 4'-amino-3'-chloro-5'-cyano-2-cyclobutylaminoacetophenone analogous to Example 48.

reactant | hydrochloride | Cl | ClH
reactant | 4'-amino-3'-chloro-5'-cyano-2-cyclobutylaminoacetophenone | NC1=C(C=C(C=C1C#N)C(CNC1CCC1)=O)Cl | C13H14ClN3O
product | 1-(4'-Amino-3'-chloro-5'-cyano-phenyl)-2-cyclobutylamino-ethanol | NC1=C(C=C(C=C1C#N)C(CNC1CCC1)O)Cl | C13H16ClN3O
